US08633183B2
A-81) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-2-chloro benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 13.8 g (36.4 mmol) 4-[5-(6-amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-2-chloro-benzoic acid methyl ester using 7.64 g (182 mmoL) LiOH in 200 mL water and 400 mL THF. The reaction mixture is stirred over night at 50° C. The solvent is removed under reduced pressure and the residue is taken up in water. Aqueous 1 M HCl is added until pH 5-6 is reached. The precipitated product is filtered off and washed with water and MeOH. After drying 12.1 g of the desired product is obtained, which is used for the next step without further purification.

reactant | 4-[5-(6-amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-2-chloro-benzoic acid methyl ester | 36.4 mmol, 13.8 g | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)C)Cl)=O | C20H15ClN4O2
reactant | LiOH | [Li+].[OH-]
solvent | water | 200 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-2-chloro benzoic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1C)C1=CC(=C(C(=O)O)C=C1)Cl | C19H13ClN4O2
